US07745452B2
Utilizing the general procedure outlined for 6-chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one, 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (217 mg, 0.62 mmol) was reacted with 0.5 M cyclopropyl magnesium bromide (4.9 ml, 2.5 mmol) to afford 6-chloro-4-cyclopropyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one as an oil. 1H NMR (CD3OD, 400 MHz) δ 7.89 (d, J=2.0 Hz, 1H), 7.36 (dd, J=2.4 and 8.6 Hz), 1H), 6.91 (dd, J=1.6 Hz and 7.6 Hz, 1H), 4.74 (m, 1H), 4.52 (m, 1H), 1.50 (m, 1H), 1.26 (m, 2H), 1.15 (m, 1H), 1.02 (m, 1H). Exact Mass (Electrospray, M+H) Calc'd, 373.0537; Found, 373.0541.

reactant | 6-chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C17H11ClF6N2O
reactant | 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 0.62 mmol, 217 mg | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)O | C11H7ClF6N2O2
reactant | cyclopropyl magnesium bromide | 2.5 mmol, 0.5 M, 4.9 ml | C1(CC1)[Mg]Br
product | 6-chloro-4-cyclopropyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)C1CC1 | C14H11ClF6N2O
